US07064116B2
1-[3α-(t-butyldiphenysilyloxy)-5α-androstan-17β-yl]-2-propyn-1-ol
A solution of (n-Bu)4N+F− 1M in THF (0.72 mL, 0.72 mmol) was added to a solution of 3-trimethylsilyl-1-[3α-(t-butyidiphenylsilyloxy)-5α-androstan-17β-yl]-2-propyn-1-ol (310 mg, 0.48 mmol) in THF (10 mL) and the resulting mixture was stirred at RT for 30 min. The reaction mixture was worked up as in Example 7 to afford after purification by flash column chromatography using petroleum ether/acetone 82/18 as elution solvent the compound named above.

reactant | 3-trimethylsilyl-1-[3α-(t-butyidiphenylsilyloxy)-5α-androstan-17β-yl]-2-propyn-1-ol | 0.48 mmol, 310 mg | C[Si](C#CC(O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@@H](CC[C@]3(C)[C@H]1CC2)O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)(C)C | C41H60O2Si2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 0.72 mmol, 0.72 mL | C1CCOC1 | C4H8O
product | 1-[3α-(t-butyldiphenysilyloxy)-5α-androstan-17β-yl]-2-propyn-1-ol | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C(C#C)O | C38H52O2Si
